US04997847
(i) Methyl 7-phthalimidohept-5-ynoate
A mixture or potassium phthalimide (2.31 g) and methyl 7-bromohept-5-ynoate (3.0 g) in dimethylformamide (35 ml) was heated at 110° C. for 4.5 hours. The cooled solution was poured into water (75 ml) and the pH of the solution was adjusted to 6. The resulting solution was extracted with ether (4×200 ml) and the combined ether extracts were dried over magnesium sulphate, the solvent was removed and the residue was chromatographed on silica gel eluted with chloroform to give the title compound (1.56 g) m.p. 62°-63° C.

reactant | potassium phthalimide | 2.31 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | methyl 7-bromohept-5-ynoate | 3.0 g | BrCC#CCCCC(=O)OC | C8H11BrO2
reactant | water | 75 ml | O | H2O
solvent | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
product | Methyl 7-phthalimidohept-5-ynoate | 1.56 g | C1(C=2C(C(N1CC#CCCCC(=O)OC)=O)=CC=CC2)=O | C16H15NO4
